US09388189B2
(S)-2-(1-((5-(3-Hydroxy-5-(5-methyl-1,3,4-oxadiazol-2-yl)phenyl)-7-((2-(trimethylsilyl)ethoxy)methyl)-7H-pyrrolo[2,3-d]pyrimidin-4-yl)amino)ethyl)-5-methyl-3-phenylpyrrolo[2,1-f][1,2,4]triazin-4(3H)-one
(S)-2-(1-((5-Bromo-7-((2-(trimethylsilyl)ethoxy)methyl)-7H-pyrrolo[2,3-d]pyrimidin-4-yl)amino)ethyl)-5-methyl-3-phenylpyrrolo[2,1-f][1,2,4]triazin-4(3H)-one (250 mg, 0.42 mmol) was treated with 3-(5-methyl-1,3,4-oxadiazol-2-yl)-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenol (200 mg, 0.66 mmol), tetrakis(triphenylphosphine)palladium(0) (40 mg, 0.03 mmol) and aqueous solution 2M of sodium carbonate (500 μl, 4.7 mmol) in N,N-dimethylformide (5 ml) according to the method described in Preparation 186 but stirring at 100° C. for 48 h. The crude was purified using SP1® Purification System (hexane-ethyl acetate) to obtain 50 mg (16% yield) of the title compound as a oil. Purity 95%.

reactant | (S)-2-(1-((5-Bromo-7-((2-(trimethylsilyl)ethoxy)methyl)-7H-pyrrolo[2,3-d]pyrimidin-4-yl)amino)ethyl)-5-methyl-3-phenylpyrrolo[2,1-f][1,2,4]triazin-4(3H)-one | 0.42 mmol, 250 mg | BrC1=CN(C=2N=CN=C(C21)N[C@@H](C)C2=NN1C(C(N2C2=CC=CC=C2)=O)=C(C=C1)C)COCC[Si](C)(C)C | C27H32BrN7O2Si
reactant | 3-(5-methyl-1,3,4-oxadiazol-2-yl)-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenol | 0.66 mmol, 200 mg | CC1=NN=C(O1)C=1C=C(C=C(C1)B1OC(C(O1)(C)C)(C)C)O | C15H19BN2O4
reactant | sodium carbonate | 4.7 mmol, 2M, 500 μl | C([O-])([O-])=O.[Na+].[Na+]
catalyst | tetrakis(triphenylphosphine)palladium(0) | 0.03 mmol, 40 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | (S)-2-(1-((5-(3-Hydroxy-5-(5-methyl-1,3,4-oxadiazol-2-yl)phenyl)-7-((2-(trimethylsilyl)ethoxy)methyl)-7H-pyrrolo[2,3-d]pyrimidin-4-yl)amino)ethyl)-5-methyl-3-phenylpyrrolo[2,1-f][1,2,4]triazin-4(3H)-one | 50 mg, 16% yield | OC=1C=C(C=C(C1)C=1OC(=NN1)C)C1=CN(C=2N=CN=C(C21)N[C@@H](C)C2=NN1C(C(N2C2=CC=CC=C2)=O)=C(C=C1)C)COCC[Si](C)(C)C | C36H39N9O4Si
